US05393751
To a solution of chloroacetic acid (22.7 g) in tetrahydrofuran-DMPU (5:1, 300 ml) was added a solution of butyllithium (0.24 mol) in hexane (150 ml) at -78° C. and the resulting suspension was warmed to room temperature. Separately, a solution of butyllithium (0.24 mol) in hexane (150 ml) was added to a solution of 2-[(tetrahydropyran-2-yl)thio]ethanol (38.9 g) in tetrahydrofuran (200 ml) at -78° C. and this solution was also warmed to room temperature. This solution and the above suspension were pooled and refluxed for 18 hours. After cooling, the reaction mixture was diluted with ice-aqueous sodium chloride solution (water-saturated NaCl solution=3:1, 400 ml) and the unreacted chloroacetic acid was extracted with ether (200 ml×6). The aqueous layer was adjusted to pH 2 with 4N-hydrochloric acid and extracted with ether (200 ml×3). The organic layer was washed successively with aqueous sodium chloride solution (saturated aqueous sodium chloride solution-water=1:1, 200 ml×2) and saturated aqueous sodium chloride solution (100 ml) and dried over anhydrous sodium sulfate. Finally the solvent was distilled off under reduced pressure to give 27.0 g of [2-[(tetrahydropyran-2-yl)thio]ethoxy]acetic acid as a colorless oil.

reactant | chloroacetic acid | 22.7 g | ClCC(=O)O | C2H3ClO2
reactant | butyllithium | 0.24 mol | C(CCC)[Li]
reactant | butyllithium | 0.24 mol | C(CCC)[Li]
reactant | 2-[(tetrahydropyran-2-yl)thio]ethanol | 38.9 g | O1C(CCCC1)SCCO | C7H14O2S
solvent | tetrahydrofuran DMPU | 300 ml | O1CCCC1.CN1CCCN(C1=O)C
solvent | hexane | 150 ml | CCCCCC | C6H14
solvent | hexane | 150 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | [2-[(tetrahydropyran-2-yl)thio]ethoxy]acetic acid | 27.0 g | O1C(CCCC1)SCCOCC(=O)O | C9H16O4S
